US05679696
A solution of butyl lithium in hexane (5.1 mL; 2.5M) is treated with a solution of 3-cyclopentyloxy-4-methoxyphenyl bromide (3.45 g) in dry tetrahydrofuran (30 mL) at -70° C. and the solution is then stirred at -70° C. for 1 hour. It is then treated dropwise with 2,6-dichlorophenylacetaldehyde (2.4 g), while keeping the temperature below -60° C. When the addition is complete the temperature is allowed to rise to room temperature and the solution is stirred for a further 2 hours. The reaction mixture is treated with aqueous ammonium chloride solution (50 mL) and the solution is extracted with diethyl ether (2×200 mL). The combined extracts are dried and concentrated, to give a yellow oil, which is subjected to flash chromatography, eluting with a mixture of diethyl ether and pentane (1:8 v/v), to give 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(2,6-dichlorophenyl)ethanol (1.6 g),in the form of a white solid, m.p. 87°-89° C.

reactant | butyl lithium | C(CCC)[Li]
reactant | 3-cyclopentyloxy-4-methoxyphenyl bromide | 3.45 g | C1(CCCC1)OC=1C=C(C=CC1OC)Br | C12H15BrO2
reactant | 2,6-dichlorophenylacetaldehyde | 2.4 g | ClC1=C(C(=CC=C1)Cl)CC=O | C8H6Cl2O
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | hexane | 2.5M, 5.1 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(2,6-dichlorophenyl)ethanol | 1.6 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=C(C=CC=C1Cl)Cl)O | C20H22Cl2O3
